US07442701B2
Description 75: 1-Benzothien-7-ylboronic acid
A solution of 7-bromo-1-benzothiophene (19.9 g, 0.094 mol) in absolute ether (200 ml) was treated with a 1.6 M solution of n-butyllithium in hexane (0.14 mol, 88 ml) at −78° C. The solution was stiffed at −78° C. for 10 minutes then treated with trimethyl borate (15 ml, 0.14 mol). The mixture was allowed to warm to −10° C. then quenched with an excess of dilute hydrochloric acid. The organic layer was separated, dried, evaporated, and the residue was recrystallised from aqueous ethanol to yield the title compound (10 g, 60%).

reactant | 7-bromo-1-benzothiophene | 0.094 mol, 19.9 g | BrC1=CC=CC=2C=CSC21 | C8H5BrS
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.14 mol, 88 ml | CCCCCC | C6H14
reactant | trimethyl borate | 0.14 mol, 15 ml | B(OC)(OC)OC | C3H9BO3
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-Benzothien-7-ylboronic acid | 10 g, 60% | S1C=CC2=C1C(=CC=C2)B(O)O | C8H7BO2S
